US06949648B2
2-(2-Oxopropyl)-4H-3,1-benzoxazin-4-one
To a solution of anthranilic acid (290 g, 2.1 mol) in acetone (1000 mL), diketene (460 mL, 6.0 mol) was added dropwise at room temperature. The mixture was stirred at room temperature for 16 hours. The resulting crystals were collected by filtration, washed with acetone and diethylether, and air dried (170 g). The crude crystals were suspended in a mixture of acetic anhydride (320 mL, 3.4 mol) and tetrahydrofuran (1000 mL), and the mixture was heated and stirred at 80° C. for 12 hours. After the mixture was cooled to room temperature, the reaction solvents were evaporated under reduced pressure, and the resulting crude crystals were filtered. The crystals were washed with acetonitrile and air dried to give the title compound (244 g, 57% yield).

reactant | anthranilic acid | 2.1 mol, 290 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | diketene | 6.0 mol, 460 mL | C=C1CC(=O)O1 | C4H4O2
reactant | acetic anhydride | 3.4 mol, 320 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
product | 2-(2-Oxopropyl)-4H-3,1-benzoxazin-4-one | 244 g, 57% yield | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)C | C11H9NO3
